US08283478B2
2-Fluorothiophenol (4.14 g, 32.6 mmol) was dissolved in anhydrous THF (100 mL). Potassium tert-butoxide (1.0 M in THF, 35.8 mL) was added and the suspension was stirred at room temperature for 15 minutes. 2-Chloroacetaldehyde dimethyl acetal was added and the mixture was stirred for 3 days. Water (100 mL) was added and the solution was extracted with diethyl ether (3×100 mL). The extracts were concentrated to a yellow oil and chromatographed (5 to 20% ethyl acetate in hexane) to yield 1-(2,2-dimethoxy-ethylsulfanyl)-2-fluoro-benzene (6.42 g) as a colorless oil. Chlorobenzene (25 mL) was heated to reflux and polyphosphoric acid (1 mL) was added. The 1-(2,2-dimethoxy-ethylsulfanyl)-2-fluoro-benzene was then added slowly turning the solution dark. After 3 hours of heating, the reaction was cooled to room temperature and diluted with water (50 mL). The solution was extracted with benzene (2×50 mL). The extracts were concentrated and chromatographed (0 to 15% ethyl acetate in hexane) to yield 7-fluorobenzothiophenyl (0.77 g). The 7-fluorobenzothiophenyl (0.77 g, 5.1 mmol) and dichloromethyl methyl ether (0.872 g, 7.6 mmol) were dissolved in anhydrous DCM (25 mL). Titanium tetrachloride (1.0 M in DCM, 7.6 mL, 7.6 mmol) was added, turning the solution dark. After 30 minutes at room temperature, the reaction was poured into a mixture of saturated aqueous NaHCO3 and ice. The mixture was stirred for about 30 minutes and then was extracted with DCM (2×50 mL). The extracts were concentrated and chromatographed (0 to 15% ethyl acetate in hexane) to yield 7-fluorobenzothiophene-3-carboxaldehyde (0.642 g). The 7-fluorobenzothiophene-3-carboxaldehyde (0.642 g, 3.77 mmol) and sulfamide (1.7 g, 18 mmol) were combined in anhydrous ethanol (20 mL) and heated to reflux for three days. The reaction was cooled to room temperature and sodium borohydride (0.148 g, 3.92 mmol) was added. After two hours, water (25 ml) was added and the solution was extracted with chloroform (3×25 mL). The extracts were concentrated, suspended in a minimal amount of DCM, and filtered to yield the title compound as a yellow solid.

reactant | 2-Fluorothiophenol | 32.6 mmol, 4.14 g | FC1=C(C=CC=C1)S | C6H5FS
reactant | Potassium tert-butoxide | 1.0 M, 35.8 mL | CC(C)([O-])C.[K+]
reactant | 2-Chloroacetaldehyde dimethyl acetal | COC(CCl)OC | C4H9ClO2
reactant | Water | 100 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(2,2-dimethoxy-ethylsulfanyl)-2-fluoro-benzene | 6.42 g | COC(CSC1=C(C=CC=C1)F)OC | C10H13FO2S
